US09062032B2
By using 2.0 g of methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 1.0 g of tert-butyl[2-(cyclopropylamino)ethyl]carbamate, 0.76 g of potassium carbonate, and 40 mL of DMF, 2.5 g of methyl 4-(2-{4-[({2-[(3-{[{2-[(tert-butoxycarbonyl)amino]ethyl}(cyclopropyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate was obtained by the method similar to Preparation Example 9.

reactant | methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 2.0 g | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C33H31ClN2O4S
reactant | tert-butyl[2-(cyclopropylamino)ethyl]carbamate | 1.0 g | C(C)(C)(C)OC(NCCNC1CC1)=O | C10H20N2O2
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | methyl 4-(2-{4-[({2-[(3-{[{2-[(tert-butoxycarbonyl)amino]ethyl}(cyclopropyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 2.5 g | C(C)(C)(C)OC(=O)NCCN(C1CC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C43H50N4O6S
